US08470820B2
Step 1: 3-(6-Chloro-pyridin-2-yl)-3-oxo-propionitrile
A suspension of NaH (1.03 g, 26 mmol; 60% in mineral oil) in toluene (30 ml) was heated to 65° under an argon atmosphere. A solution of 6-chloro-pyridine-2-carboxylic acid methyl ester (4.4 g, 26 mmol) and acetonitrile (1.33 ml, 26 mmol) in toluene (20 ml; heating was required to dissolve the ester) was then added dropwise (exothermic), and the mixture was stirred at 65° for 24 h (compact slurry). After cooling to r.t., ice water was added while stirring. The aqueous phase was collected, washed with Et2O, neutralized with HCl, extracted with CH2Cl2, dried over MgSO4, filtered and evaporated. The product was obtained after silica gel chromatography using a CH2Cl2/MeOH gradient (2.04 g, 40%) as brown solid.

reactant | NaH | 26 mmol, 1.03 g | [H-].[Na+]
reactant | 6-chloro-pyridine-2-carboxylic acid methyl ester | 26 mmol, 4.4 g | COC(=O)C1=NC(=CC=C1)Cl | C7H6ClNO2
reactant | acetonitrile | 26 mmol, 1.33 ml | C(C)#N | C2H3N
reactant | CH2Cl2 MeOH | 2.04 g | C(Cl)Cl.CO
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(6-Chloro-pyridin-2-yl)-3-oxo-propionitrile | ClC1=CC=CC(=N1)C(CC#N)=O | C8H5ClN2O
